US03988448
35.5 g of β-hydroxy-β,β-diphenyl-propionitrile are added portionwise to the stirred suspension of 12.9 g of lithium aluminum hydride in 800 ml of diethyl ether while cooling with an ice bath. After stirring for 15 hours at room temperature and 2 hours at the boil, it is cooled again and 12.9 ml of water, 12.9 ml of 15% aqueous sodium hydroxide and 38.7 ml of water are added in this order. The mixture is filtered, the residue washed 3 times with 150 ml of methylene chloride, the filtrate dried, evaporated and the residue recrystallized from ethanol, to yield the 3-hydroxy-3,3-diphenyl-propylamine melting at 134°-136°.

reactant | β-hydroxy-β,β-diphenyl-propionitrile | 35.5 g | OC(CC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H13NO
reactant | lithium aluminum hydride | 12.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 12.9 ml | O | H2O
reactant | sodium hydroxide | 12.9 ml | [OH-].[Na+]
reactant | water | 38.7 ml | O | H2O
solvent | diethyl ether | 800 ml | C(C)OCC | C4H10O
product | 3-hydroxy-3,3-diphenyl-propylamine | OC(CCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H17NO
